US05112594
Ethylamine gas was bubbled through a solution of 4-hydroxymethylene-dihydro-2,2,5,5-tetramethyl-3(2H)furanone (4.0 g, 24 mmol) in 50 mL of chloroform at room temperature for 15 min. The solvents were evaporated and the residue was recrystallized from hexanes to give 3.0 g (65%) of dihydro-2,2,5,5-tetramethyl-4-ethylaminomethylene-3(2H)furanone as a light brown solid.

reactant | Ethylamine | C(C)N | C2H7N
reactant | 4-hydroxymethylene-dihydro-2,2,5,5-tetramethyl-3(2H)furanone | 24 mmol, 4.0 g | OC=C1C(C(OC1(C)C)(C)C)=O | C9H14O3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | dihydro-2,2,5,5-tetramethyl-4-ethylaminomethylene-3(2H)furanone | 3.0 g, 65% | CC1(OC(C(C1=O)=CNCC)(C)C)C | C11H19NO2
